US06096735
To a solution of 7-chloro-5-[(4-methyl-1-piperazinyl)carbonyl-methyl]-1-[2-methoxy-4-{N-[2-(2-methylphenoxy)ethyl]-N-trifluoroacetylamino}-benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.45 g) in methanol (20 ml) is added a solution of potassium carbonate (0.11 g) in water (5 ml), and the mixture is stirred at room temperature for 12 hours. The mixture is evaporated to remove the solvent, and thereto is added water. The mixture is extracted with ethyl acetate, and the extract is dried, evaporated to remove the solvent. The resulting residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol=80:1→50:1→30:1), and recrystallized from acetone/n-hexane to give 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethyl]-1-{2-methoxy-4-[2-(2-methylphenoxy)ethylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine (0.12 g) as white powder.

reactant | 7-chloro-5-[(4-methyl-1-piperazinyl)carbonyl-methyl]-1-[2-methoxy-4-{N-[2-(2-methylphenoxy)ethyl]-N-trifluoroacetylamino}-benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.45 g | ClC=1C=CC2=C(C(CCCN2C(C2=C(C=C(C=C2)N(C(C(F)(F)F)=O)CCOC2=C(C=CC=C2)C)OC)=O)CC(=O)N2CCN(CC2)C)C1 | C36H40ClF3N4O5
reactant | potassium carbonate | 0.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 7-chloro-5-[(4-methyl-1-piperazinyl)carbonylmethyl]-1-{2-methoxy-4-[2-(2-methylphenoxy)ethylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine | 0.12 g | ClC=1C=CC2=C(C(CCCN2C(C2=C(C=C(C=C2)NCCOC2=C(C=CC=C2)C)OC)=O)CC(=O)N2CCN(CC2)C)C1 | C34H41ClN4O4
